US07279600B2
3,5-Dichloro-4′hydroxy-biphenyl-4-carbaldehyde
The title compound was prepared by reacting 3,5-dichloro-4-formyl-phenyl trifluoromethanesulfonate (0.73 g, 2.26 mmol) with 4-tert-butyldimethylsilyloxyphenyl boronic acid (0.80 g, 3.2 mmol) according to method C to yield 0.30 g (50%) of a yellow solid: mp:178-180° C.; 1H NMR (DMSO-d6): δ 6.88 (2H, d, J=8.84 Hz), 7.72 (2H, d, J=8.71 Hz), 7.84 (2H, s), 9.95 (1H, s), 10.38 (1H, s); MS (EI) m/z 266.0/268.0/270.0 (M+).

reactant | 3,5-dichloro-4-formyl-phenyl trifluoromethanesulfonate | 2.26 mmol, 0.73 g | FC(S(=O)(=O)OC1=CC(=C(C(=C1)Cl)C=O)Cl)(F)F | C8H3Cl2F3O4S
reactant | 4-tert-butyldimethylsilyloxyphenyl boronic acid | 3.2 mmol, 0.80 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)B(O)O | C12H21BO3Si
product | 3,5-Dichloro-4′hydroxy-biphenyl-4-carbaldehyde | ClC=1C=C(C=C(C1C=O)Cl)C1=CC=C(C=C1)O | C13H8Cl2O2
